US08202870B2
1a) 3-(2-Ethoxyphenyl)-3-hydroxy-5-iodoindol-2-one
4 g (164 mMol) of magnesium turnings and 5% of the total amount of 2-bromo-1-ethoxybenzene were put into 20 ml of ether and, after addition of a little iodine, were heated until the reaction started. 33.1 g (165 mMol) of 2-bromo-1-ethoxybenzene dissolved in 100 ml of ether were slowly added dropwise to the boiling solution in such a way that the reaction continued with gentle boiling. Then, while cooling slightly to 20° C., 15 g (54.9 mMol) of 5-iodoisatin in 400 ml of anhydrous tetrahydrofuran were added dropwise. The mixture was then stirred at room temperature for 2 h. The reaction solution was poured into an aqueous NH4Cl solution with stirring. This aqueous phase was extracted several times with ethyl acetate, and the combined aqueous phase was washed four times with water, dried and concentrated in vacuo, resulting in the product as a crystalline precipitate. 19.2 g of the product were obtained.

reactant | magnesium | 164 mMol, 4 g | [Mg] | Mg
reactant | 2-bromo-1-ethoxybenzene | BrC1=C(C=CC=C1)OCC | C8H9BrO
reactant | iodine | II | I2
reactant | 2-bromo-1-ethoxybenzene | 165 mMol, 33.1 g | BrC1=C(C=CC=C1)OCC | C8H9BrO
reactant | 5-iodoisatin | 54.9 mMol, 15 g | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-(2-Ethoxyphenyl)-3-hydroxy-5-iodoindol-2-one | 19.2 g | C(C)OC1=C(C=CC=C1)C1(C(NC2=CC=C(C=C12)I)=O)O | C16H14INO3
